US04585768
1.7 ml of 25% hydrogen bromide-acetic acid are added to a solution of 1.07 g of (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one in 2 ml of benzene under ice-cooling, and the mixture is stirred at room temperature for 2 hours. Then, ether is added to the mixture, and the precipitates are collected by filtration and washed with ether. Water and benzene are added to said precipitates, and the mixture is alkalized with potassium carbonate. The benzene layer is collected, washed with water, dried and then evaporated to remove solvent. Ether is added to the residue, and crystalline precipitates are collected by filtration and recrystallized from a mixture of ethyl acetate and n-hexane. 0.47 g of (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one is obtained.

reactant | hydrogen bromide acetic acid | 1.7 ml | Br.C(C)(=O)O
reactant | (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.07 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C(=O)OCC1=CC=CC=C1)C=CC(=C2)Cl | C27H27ClN2O5S
reactant | ether | CCOCC | C4H10O
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 0.47 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCNC)C=CC(=C2)Cl | C19H21ClN2O3S
